US06376491B1
b) Preparation of 4-(3-bromo-propoxy)-3-methyl-benzofuran-2-carbaldehyde
To a solution of [4-(3-bromo-propoxy)-3-methyl-benzofuran-2-yl]methanol (690 mg) in chloroform (10 ml) was added manganese(IV) oxide (1.2 g) at room temperature and the mixture was stirred vigorously overnight. The mixture was filtered through a pad of Celite and concentrated in vacuo. The titled compound (500 mg) was obtained as a white solid after the purification by silica gel column chromatography developed by the mixture of hexane and ethyl acetate. EI-MS: m/z 297 (M+); 1H-NMR (CDCl3): δ 2.38-2.47 (2H, m), 2.74 (3H, s), 3.65 (2H, t, J=6.6 Hz), 4.23 (2H, t, J=5.9 Hz), 6.68 (1H, d, J=7.9 Hz), 7.14 (1H, d, J=8.9 Hz), 7.40 (1H, t, J=8.3 Hz), 9.97 (1H, s).

reactant | [4-(3-bromo-propoxy)-3-methyl-benzofuran-2-yl]methanol | 690 mg | BrCCCOC1=CC=CC2=C1C(=C(O2)CO)C | C13H15BrO3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese(IV) oxide | 1.2 g | [O-2].[Mn+4].[O-2]
product | 4-(3-bromo-propoxy)-3-methyl-benzofuran-2-carbaldehyde | 500 mg | BrCCCOC1=CC=CC2=C1C(=C(O2)C=O)C | C13H13BrO3
